US03940411
Preparation of 2-(2-Amino-1,3,4-thiadiazol-5-yl)-1-methyl-5-nitroimidazole
1-(1-Methyl-5-nitro-2-imidazolecarboximidoyl)-3-thiosemicarbazide is cyclized as in Example 10 with the exception that the 0.3 g. of the thiosemicarbazide in 7 ml. of 6N hydrochloric acid is replaced by 0.49 g. of the thiosemicarbazide in 5 ml. of methanol plus 0.5 ml. of concentrated hydrochloric acid. The cyclization is also effected by the use of 0.49 g. of the thiosemicarbazide in 5 ml. of methanol plus 0.5 ml. of 6N ethanolic hydrogen chloride. In each of these variations, a 78% yield of the title compound is realized. The cyclization is likewise accomplished by the use of dilute aqueous sulfuric acid, phosphoric, nitric, p-toluenesulfonic, benzene sulfonic, methylsulfonic or hydrobromic acid.

reactant | 1-(1-Methyl-5-nitro-2-imidazolecarboximidoyl)-3-thiosemicarbazide | CN1C(=NC=C1[N+](=O)[O-])C(=N)NNC(=S)N | C6H9N7O2S
reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | hydrogen chloride | 6N | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-(2-Amino-1,3,4-thiadiazol-5-yl)-1-methyl-5-nitroimidazole | 78% yield | NC=1SC(=NN1)C=1N(C(=CN1)[N+](=O)[O-])C | C6H6N6O2S
